US07592358B2
1.1d. 2-[4-(5-bromopyridin-2-ylethynyl)-2-methylphenoxy]ethanol
0.26 g (1.36 mmol) of CuI was added to a degassed solution of 11.98 g (68.00 mmol) of 2-(4-ethynyl-2-methylphenoxy)ethanol, 16.11 g (68.00 mmol) of 2,5-dibromopyridine, 0.96 g (1.36 mmol) of bis(triphenylphosphane)palladium (II) chloride, and 19.22 mL (136.00 mmol) of diisopropylamine in 500 mL of THF and the mixture was stirred for 4 hours at RT. The reaction mixture was evaporated down in vacuo and the residue taken up in 800 mL of EtOAc. The organic phase was with water and saturated aqueous NaCl solution washed, dried over sodium sulfate, and evaporated down in vacuo. The crude product was purified by column chromatography (silica gel, gradient DCM/EtOAc 90:10→80:20). Yield: 13.20 g (58% of theoretical); C16H14BrNO2 (M=332.192); calc.: molpeak (M+H)+: 332/334 (Br); found: molpeak (M+H)+: 332/334 (Br); Rf value: 0.39 (silica gel, cyc/EtOAc 1:1).

reactant | 2-(4-ethynyl-2-methylphenoxy)ethanol | 68.00 mmol, 11.98 g | C(#C)C1=CC(=C(OCCO)C=C1)C | C11H12O2
reactant | 2,5-dibromopyridine | 68.00 mmol, 16.11 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | diisopropylamine | 136.00 mmol, 19.22 mL | C(C)(C)NC(C)C | C6H15N
solvent | THF | 500 mL | C1CCOC1 | C4H8O
catalyst | CuI | 1.36 mmol, 0.26 g | [Cu]I
product | 2-[4-(5-bromopyridin-2-ylethynyl)-2-methylphenoxy]ethanol | BrC=1C=CC(=NC1)C#CC1=CC(=C(OCCO)C=C1)C | C16H14BrNO2
